US20010023249A1
(S)-2-Amino-1-{4-[(4-benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amino]-piperidin-1-yl}-4-methyl-pentan-1-one
4-(4-Benzyloxy-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester (5.0 g, 13.1 mmol) was dissolved in THF (65 mL), then treated with N,N-diisopropylethylamine (9.1 mL, 52.4 mmol) and 4-bromo-2-methyl-2-butene (3.0 mL, 26.2 mmol). The reaction was heated to 40° C. for 18 hours, then concentrated in vacuo. The residue was chromatographed on silica gel eluting with 5:1 hexane/EtOAc to give 5.15 g (87%) of the desired compound.

reactant | 4-(4-Benzyloxy-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 13.1 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H30N2O3
reactant | N,N-diisopropylethylamine | 52.4 mmol, 9.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromo-2-methyl-2-butene | 26.2 mmol, 3.0 mL | BrCC=C(C)C | C5H9Br
reactant | THF | 65 mL | C1CCOC1 | C4H8O
product | (S)-2-Amino-1-{4-[(4-benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amino]-piperidin-1-yl}-4-methyl-pentan-1-one | 5.15 g, 87% | N[C@H](C(=O)N1CCC(CC1)N(CC=C(C)C)C1=CC=C(C=C1)OCC1=CC=CC=C1)CC(C)C | C29H41N3O2
